US06451821B1
A solution of 0.2 g of N-(tert-butyl)-N′-[(1R)-1-hydroxymethyl-2-(4-hydroxyphenyl)ethyl]-thiourea in 2.6 cm3 of 6N hydrochloric acid is heated at a temperature in the region of 110° C. for 18 hours. The reaction medium is concentrated under reduced pressure (1 kPa) at a temperature in the region of 55° C. and is then taken up successively in 10 cm3 of isopropyl ether, 10 cm3 of diethyl ether, 10 cm3 of pentane, 10 cm3 of petroleum ether and 10 cm3 of isopropyl ether, concentrating under the same conditions as above between each wash. The solid obtained is dried in a desiccator under reduced pressure (0.1 kPa) at a temperature in the region of 40° C. to give 0.098 g of (+)-(4R)-4-(4-hydroxybenzyl)-4,5-dihydro-2-thiazolylamine hydrochloride in the form of an orange-coloured solid [1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm): 2.78 (dd, J=13.5 and 7.5 Hz: 1H); 2.88 (dd, J=13.5 and 5.5 Hz: 1H); 3.26 (dd, J=11.5 and 6 Hz: 1H); 3.55 (dd, J=11.5 and 7.5 Hz: 1H); 4.45 (mt: 1H); 6.74 (d, J=8.5 Hz: 2H); 7.07 (d, J=8.5 Hz: 2H); 9.09 (unresolved complex: 1H); 9.41 (s: 1H); 9.56 (unresolved complex: 1H); 9.97 (broad s: 1H); (αD20=+9.5+/−0.5 at a concentration of 0.5% in methanol)].

reactant | N-(tert-butyl)-N′-[(1R)-1-hydroxymethyl-2-(4-hydroxyphenyl)ethyl]-thiourea | 0.2 g | C(C)(C)(C)NC(=S)N[C@H](CC1=CC=C(C=C1)O)CO | C14H22N2O2S
reactant | hydrochloric acid | 6N, 2.6 cm3 | Cl | ClH
product | (+)-(4R)-4-(4-hydroxybenzyl)-4,5-dihydro-2-thiazolylamine hydrochloride | 0.098 g | Cl.OC1=CC=C(C[C@H]2N=C(SC2)N)C=C1 | InChI=1S/C10H12N2OS.ClH/c11-10-12-8(6-14-10)5-7-1-3-9(13)4-2-7;/h1-4,8,13H,5-6H2,(H2,11,12);1H/t8-;/m1./s1
